US07420066B2
(2,4-Dichloro-phenyl)-[6-(3-hydroxymethyl-phenyl)-3-methyl-benzofuran-2-yl]-methanone was prepared via a Suzuki coupling of (6-Bromo-3-methyl-benzofuran-2-yl)-(2,4-dichloro-phenyl)-methanone and 3-(Hydroxymethyl)phenylboronic acid as described in method 1 step 5. 1H-NMR (CDCl3) δ 7.62 (d, J=8 Hz 1H), 7.57-7.53 (m, 1H), 7.48 (dd, J=9 Hz, J=2 Hz, 1H), 7.46-7.44 (m, 2H), 7.40 (d, J=2 Hz, 1H), 7.37-7.33 (m, 2H), 7.30-7.26 (m, 2H), 4.68 (s, 2H), 2.51 (s, 3H).

reactant | (6-Bromo-3-methyl-benzofuran-2-yl)-(2,4-dichloro-phenyl)-methanone | BrC1=CC2=C(C(=C(O2)C(=O)C2=C(C=C(C=C2)Cl)Cl)C)C=C1 | C16H9BrCl2O2
reactant | 3-(Hydroxymethyl)phenylboronic acid | OCC=1C=C(C=CC1)B(O)O | C7H9BO3
product | (2,4-Dichloro-phenyl)-[6-(3-hydroxymethyl-phenyl)-3-methyl-benzofuran-2-yl]-methanone | ClC1=C(C=CC(=C1)Cl)C(=O)C=1OC2=C(C1C)C=CC(=C2)C2=CC(=CC=C2)CO | C23H16Cl2O3
